US07053060B2
To a solution of 4-allyloxy-2′-(methoxymethyloxy)benzophenone (1.1 g) in ethanol (15 mL) was added concentrated hydrochloric acid (0.96 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and a saturated aqueous sodium hydrogen carbonate solution was added to the residue. The mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=15/1) to give 4-allyloxy-2′-hydroxybenzophenone (0.87 g).

reactant | 4-allyloxy-2′-(methoxymethyloxy)benzophenone | 1.1 g | C(C=C)OC1=CC=C(C(=O)C2=C(C=CC=C2)OCOC)C=C1 | C18H18O4
reactant | hydrochloric acid | 0.96 mL | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 4-allyloxy-2′-hydroxybenzophenone | 0.87 g | C(C=C)OC1=CC=C(C(=O)C2=C(C=CC=C2)O)C=C1 | C16H14O3
